US07482356B2
Preparation of 2-(2-chlorobenzoyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (24):
To a solution of 2-(2-chloro-benzoyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 23, (0.15 g, 0.39 mmol)) in THF/MeOH (3 mL of 1:1 mixture) is added dropwise a solution of Oxone® (potassium peroxymonosulfate) (0.72 g, 1.16 mmol) in H2O (3 mL). After stirring the reaction for 1.5 hour at room temperature, the solution is poured into aqueous saturated NaHCO3. The aqueous phase is extracted three times with CHCl3 and the combined organic phases are dried (MgSO4), filtered and concentrated in vacuo. The crude product is used without further purification.

reactant | 2-(2-chloro-benzoyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | ClC1=C(C(=O)C2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)SC)C=CC=C1 | C18H15ClN4O2S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF MeOH | 3 mL | C1CCOC1.CO
solvent | H2O | 3 mL | O | H2O
product | 2-(2-chlorobenzoyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | ClC1=C(C(=O)C2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)S(=O)(=O)C)C=CC=C1 | C18H15ClN4O4S
